US07705042B2
b) 1-Methyl-4-(3-nitro-4-piperidin-1-yl-phenyl)-piperazine
To a solution of 512 mg g (2.31 mmol) of 3-nitro-4-piperidin-1-yl-phenylamine (as prepared in the previous step) and 404 mg (2.10 mmol) of mechlorethamine hydrochloride in 15 mL of EtOH was added 1.45 g (10.5 mmol) of anh K2CO3 and the mixture heated to reflux under Ar for 48 h. The mixture was cooled to RT, concentrated in vacuo, extracted with EtOAc (3×20 mL) and the combined extracts filtered (Celite), and concentrated to a dark oil. Chromatography of the resulting residue on a 70-g silica SPE column with a gradient of 0-3% MeOH-dichloromethane afforded 456 mg (71%) of the title compound as a dark red solid: Mass spectrum (ESI, m/z): Calcd. for C16H24N4O2, 305.2 (M+H), found 305.1.

reactant | 3-nitro-4-piperidin-1-yl-phenylamine | 2.31 mmol | [N+](=O)([O-])C=1C=C(C=CC1N1CCCCC1)N | C11H15N3O2
reactant | mechlorethamine hydrochloride | 2.10 mmol, 404 mg | CN(CCCl)CCCl.Cl
reactant | K2CO3 | 10.5 mmol, 1.45 g | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOH | 15 mL | CCO | C2H6O
product | 1-Methyl-4-(3-nitro-4-piperidin-1-yl-phenyl)-piperazine | 456 mg, 71% | CN1CCN(CC1)C1=CC(=C(C=C1)N1CCCCC1)[N+](=O)[O-] | C16H24N4O2
